### PR TITLE
feat: prepare for proving the closure of omega-regular languages under complementation

### PR DESCRIPTION
**Pull request by ctchou**
This PR lays some groundwork for proving the closure of omega-regular languages under complementation.  The main result is `IsRegular.fin_cover_saturates_compl` in `OmegaRegularLanguage.lean`, which depends on the definition and theorems in `Saturation.lean`.

In future work we will construct a right congruence of finite index on finite words so that the index type `I` in `IsRegular.fin_cover_saturates_compl` consists of pairs of equivalence classes of this congruence.

### CODE REVIEW

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 1]
```diff
@@ -185,6 +186,23 @@ theorem IsRegular.omegaPow [Inhabited Symbol] {l : Language Symbol}
   use Unit ⊕ State, inferInstance, ⟨na.loop, {inl ()}⟩
   exact NA.Buchi.loop_language_eq
 
+/-- If an ω-language has a finite saturating cover made of ω-regular languages,
+then it is an ω-regular language. -/
+theorem IsRegular.fin_cover_saturates {I : Type*} [Finite I]
+    {p : I → ωLanguage Symbol} {q : ωLanguage Symbol}
+    (hs : Saturates p q) (hc : ⨆ i, p i = ⊤) (hr : ∀ i, (p i).IsRegular) : q.IsRegular := by
+  have hq : q = ⨆ i ∈ {i | (p i ⊓ q).Nonempty}, p i := saturates_eq_biUnion hs hc
+  rw [hq]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]: I would just write

```suggestion
  rw [saturates_eq_biUnion hs hc]
```

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 2]
```diff
@@ -185,6 +186,23 @@ theorem IsRegular.omegaPow [Inhabited Symbol] {l : Language Symbol}
...
+  apply IsRegular.iSup
+  grind
+
+/-- If an ω-language has a finite saturating cover made of ω-regular languages,
+then its complement is an ω-regular language. -/
+theorem IsRegular.fin_cover_saturates_compl {I : Type*} [Finite I]
+    {p : I → ωLanguage Symbol} {q : ωLanguage Symbol}
+    (hs : Saturates p q) (hc : ⨆ i, p i = ⊤) (hr : ∀ i, (p i).IsRegular) : (qᶜ).IsRegular := by
+  exact IsRegular.fin_cover_saturates (saturates_compl hs) hc hr
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]:
```suggestion
    (hs : Saturates p q) (hc : ⨆ i, p i = ⊤) (hr : ∀ i, (p i).IsRegular) : (qᶜ).IsRegular :=
  IsRegular.fin_cover_saturates (saturates_compl hs) hc hr
```

File: Cslib/Foundations/Data/Set/Saturation.lean [hunk 3]
```diff
@@ -0,0 +1,48 @@
...
+  ∀ i : ι, (f i ∩ s).Nonempty → f i ⊆ s
+
+variable {f : ι → Set α} {s : Set α}
+
+/-- If `f` saturates `s`, then `f` saturates its complement `sᶜ` as well. -/
+@[simp, scoped grind .]
+theorem saturates_compl (hs : Saturates f s) : Saturates f sᶜ := by
+  rintro i ⟨_, _⟩ y _ _
+  have h_y : (f i ∩ s).Nonempty := by use y; grind
+  grind [hs i h_y]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Set/Saturation.lean]: When it's possible to close a proof by allow `grind` to unfold a definition, this seems preferable to manually passing an expression:

```suggestion
  have : (f i ∩ s).Nonempty := ⟨y, by grind⟩
  grind [Saturates]
```


(I know I may seem a little inconsistent in preferring `⟨y, by grind⟩` here. If I had to nail it down, I'd say I rank semicolons much higher as a barrier to readability.)

**Review by chenson2018 — CHANGES_REQUESTED** [review]

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.

File: Cslib/Foundations/Data/Set/Saturation.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Foundations/Data/Set/Saturation.lean]: Fixed.

**Comment by ctchou** [comment]
Merge in the current upstream/main.

**Review by fmontesi — APPROVED** [review]

**Comment by ctchou** [comment]
Merge in the current upstream/main.  All merge conflicts have been resolved.
